US08026261B2
A mixture of methanesulfonic acid 1-(3-benzyloxy-1-methyl-4-oxo-1,4-dihydro-pyridin-2-yl)-2,2,2-trifluoro-ethyl ester (2.80 g, 7.15 mmol) and 10% Pd/C (0.56 g) in ethyl alcohol was subjected to hydrogenation in a Parr apparatus under 50 psi hydrogen pressure for 90 min. The mixture was filtered through a pad of CELITE™, and the filtrate was concentrated to dryness. The residue was purified by flash column chromatography on silica gel using a mixture of isopropyl alcohol and a conc. NH4OH solution (90/10, v/v) as eluant. Fractions rich in the product were pooled together and evaporated to dryness, thereby affording 3-hydroxy-1-methyl-2-(2,2,2-trifluoro-ethyl)-1H-pyridin-4-one (first crop: 143 mg, 9.7% yield, second crop: 240 mg, 16.2% yield). 1H NMR (90 MHz, CD3OD) δ (ppm): 7.66 (d, J=7.2 Hz, 1H), 6.41 (d, J=7.4 Hz, 1H), 3.89 (q, J=10.2 Hz, 1H) and 3.82 (s, 3H); MS-ESI (m/z): 208 [M+1]+, 188.2, 168.2. HPLC purity (peak area percent) of both fractions are about 98% at λ=254 nm, RT=3.75 min (HPLC method is described in Part A above).

reactant | methanesulfonic acid 1-(3-benzyloxy-1-methyl-4-oxo-1,4-dihydro-pyridin-2-yl)-2,2,2-trifluoro-ethyl ester | 7.15 mmol, 2.80 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)C)C(C(F)(F)F)OS(=O)(=O)C | C16H16F3NO5S
reactant | hydrogen | [H][H] | H2
solvent | ethyl alcohol | C(C)O | C2H6O
catalyst | Pd/C | 0.56 g | [Pd] | Pd
product | 3-hydroxy-1-methyl-2-(2,2,2-trifluoro-ethyl)-1H-pyridin-4-one | 143 mg, 9.7% yield | OC1=C(N(C=CC1=O)C)CC(F)(F)F | C8H8F3NO2
